US07919506B2
Preparation 12: N-(2-Bromo-4-methyl-5-(trifluoromethyl) benzyl) (3,5-bis(trifluoromethyl) phenyl) methanamine
A mixture of (2-bromo-4-methyl-5-(trifluoromethyl) phenyl) methanamine (189 mg, 0.705 mmol) and 3,5 bistrifluoromethyl benzaldehyde (170 mg, 0.705 mmol) in anhydrous toluene (10 mL) was heated under reflux for 3 hours. The solvent was removed under reduced pressure and the residue was dissolved in dichloromethane (25 mL). Sodium triacetoxyborohyride (373.5 mg, 1.76 mmol) was added and the mixture was stirred for 18 hours at room temperature. The mixture was poured into a mixture of saturated NaHCO3 (50 mL) and ethyl acetate (50 mL) and stirred for 30 minutes. The layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined organic layer was dried with anhydrous sodium sulfate, filtered and concentrated to give the title compound (98.4%). 1H NMR (400 MHz, CDCl3) δ 7.83 (s, 2H) 7.76(s, 1H) 7.58(s, 1H) 7.41 (s, 1H) 3.92(s, 2H) 3.89(s, 2H) 2.44(s, 3H)

reactant | (2-bromo-4-methyl-5-(trifluoromethyl) phenyl) methanamine | 0.705 mmol, 189 mg | BrC1=C(C=C(C(=C1)C)C(F)(F)F)CN | C9H9BrF3N
reactant | 3,5 bistrifluoromethyl benzaldehyde | 0.705 mmol, 170 mg | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | Sodium triacetoxyborohyride | 1.76 mmol, 373.5 mg | [B-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-Bromo-4-methyl-5-(trifluoromethyl) benzyl) (3,5-bis(trifluoromethyl) phenyl) methanamine | 98.4% | BrC1=C(CNCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C(=C1)C)C(F)(F)F | C18H13BrF9N
